US05604260
Step 8: 5-Amino-6-(2,4-difluorophenylthio)-1-indanone
A mixture of 5-nitro-6-(2,4-difluorophenylthio)-1-indanone ethylene ketal (580 mg, 1.59 mmol), iron powder (500 mg, 8.9 mmol) and ammonium chloride (50 mg, 0.93 mmol) in 30 mL of ethanol:water (2:1) was refluxed for 1 h. The hot mixture was filtered through celite. The solvente was evaporated in vacuo. The residue was diluted with water and extracted with ethyl acetate. The ethyl acetate extract was dried over anhydrous MgSO4 and concentrated to give the title compound (410 mg, 81%) as a light brown solid. 1H NMR (CDCl3) δ7.95 (s, 1H), 7.00 (m, 1H), 6.80 (m, 2H), 6.72 (s, 1H), 4.95 (br s, 2h), 3.05 (t, 2H), 2.65 (t, 2H).

reactant | 5-nitro-6-(2,4-difluorophenylthio)-1-indanone ethylene ketal | 1.59 mmol, 580 mg | C1COC2(CCC3=CC(=C(C=C23)SC2=C(C=C(C=C2)F)F)[N+](=O)[O-])O1 | C17H13F2NO4S
reactant | ammonium chloride | 0.93 mmol, 50 mg | [Cl-].[NH4+]
solvent | ethanol water | 30 mL | C(C)O.O
catalyst | iron | 8.9 mmol, 500 mg | [Fe] | Fe
product | 5-Amino-6-(2,4-difluorophenylthio)-1-indanone | 410 mg, 81% | NC=1C=C2CCC(C2=CC1SC1=C(C=C(C=C1)F)F)=O | C15H11F2NOS
